US08877782B2
N-[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-isobutyramide
As described for example 179b, 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-ylamine (150 mg, 0.53 mmol) was converted, using isobutyrylchloride instead of acetyl chloride, to the title compound (170 mg, 91%) which was obtained as a white solid after trituration with diisopropylether. MS: m/e=352.0 [M+H]+.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-ylamine | 0.53 mmol, 150 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(C=N1)N | C16H15N3O2
reactant | isobutyrylchloride | C(C(C)C)(=O)Cl | C4H7ClO
reactant | diisopropylether | C(C)(C)OC(C)C | C6H14O
product | N-[6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-isobutyramide | 170 mg, 91% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(C=N1)NC(C(C)C)=O | C20H21N3O3
